US04214097
A solution of 2.04 g of sodium ethoxide in 60 ml of dimethylformamide was added to a hot solution (140°) of 3.1 g of ethyl 4,6,6,6-tetrachloro-3,3-dimethylhexanoate in 20 ml of dimethylformamide. The mixture was maintained at 140° for 2 hours, then cooled to 0°, neutralized with dry hydrogen chloride and poured into ice water. The aqueous mixture was extracted with ether, and the extract was washed successively with saturated aqueous sodium bicarbonate and sodium chloride. The washed extract was dried over magnesium sulfate and distilled to give 1.81 g (77% yield) of ethyl 4,6,6-trichloro-3,3-dimethyl-5-hexenoate, b.p. 98°-101°/0.6 mm.

reactant | sodium ethoxide | 2.04 g | [O-]CC.[Na+]
reactant | ethyl 4,6,6,6-tetrachloro-3,3-dimethylhexanoate | 3.1 g | ClC(C(CC(=O)OCC)(C)C)CC(Cl)(Cl)Cl | C10H16Cl4O2
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 4,6,6-trichloro-3,3-dimethyl-5-hexenoate | 1.81 g, 77% yield | ClC(C(CC(=O)OCC)(C)C)C=C(Cl)Cl | C10H15Cl3O2
